US08349865B2
Step 2: 5-((2,6-Dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-9-morpholin-4-yl-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 9-bromo-5((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one (58 mg, 0.08 mmol) in dioxane (2 ml) was added morpholine (14.16 mg, 0.16 mmol), xantphos (9.41 mg, 0.02 mmol), cesium carbonate(79 mg, 0.24 mmol) and Pd2(dba)3 (7.44 mg, 8.13 μmol). The solution was degassed by bubbling nitrogen for few minutes and heated to 100° C. in a sealed tube for 16 h. After cooling to room temperature, the reaction mixture was filtered and the filtrate was evaporated under vacuum to afford the title compound.

reactant | 9-bromo-5((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one | 0.08 mmol, 58 mg | BrC1=CC2=C(N=C(C=3C=CN(C(C23)=O)COCC[Si](C)(C)C)N(COCC[Si](C)(C)C)C2=C(C=C(C=C2Cl)F)Cl)C=C1 | C30H37BrCl2FN3O3Si2
reactant | morpholine | 0.16 mmol, 14.16 mg | N1CCOCC1 | C4H9NO
reactant | xantphos | 0.02 mmol, 9.41 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.24 mmol, 79 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 8.13 μmol, 7.44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-((2,6-Dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-9-morpholin-4-yl-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one | ClC1=C(C(=CC(=C1)F)Cl)N(C1=NC2=C(C=3C(N(C=CC13)COCC[Si](C)(C)C)=O)C=C(C=C2)N2CCOCC2)COCC[Si](C)(C)C | C34H45Cl2FN4O4Si2
